Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cortisone
 
Attending: ___.
 
Chief Complaint:
lightheadedness
 
Major Surgical or Invasive Procedure:
___ Pacemaker implantation

 
History of Present Illness:
___ PMH HTN, HLD, Afib on Apixiban and hypothyroidism, who
presented to the ED with a finding of 7 second pause on
outpatient Zio patch that coincided with episodes of 
pre-syncope.

Patient was seen in clinic by her cardiologist, Dr. ___ on
___ for multiple episodes of pre-syncope over the past
year. She has a history of atrial flutter with uptitration of
beta blocker for tachyarrhythmia. Given concern for bradycardia
as possible cause of pre-syncopal symptoms, her metoprolol
succinate dose was decreased to 25mg in am and 37.5mg qpm. She
was also placed on a zio patch. Patient was contacted by PCP
today to report to the ER as her symptoms coincided with 
episodes
of pause on monitor. 

Patient notes that over the past ___ years has noticed episodes
of lightheadedness that last for a few seconds without any
associated chest pain, visual changes, palpitations or dyspnea.
Only one mechanical fall over the past year. Also notes that
she's had worsening shortness of breath with exertion over the
past year. Unable to walk more than one block. No ___ edema,
orthopnea, PND. Has never had a prior TTE or stress test. NO
cough, sputum production, fever/chills. No smoking history. 

In the ED:  
Initial VS:
T 97.1 HR 95 BP 149/88 RR 19 Sat 98% RA

Exam notable for: 
Bibasilar crackles,irregular rhythm, non-pitting LLE edema, 

EKG:  
Atrial fibrillation, ventricular rate 114, incomplete RBB, No ST
elevation or depression, 

Labs notable for:  
WBC 9.5 Hgb 12.5 Plt ___
-----------
4.7/25/0.7

INR 1.3

Studies notable for:  
CXR: no abnormalities 

Consults: 
Cardiology evaluated patient with plan for admission to ___ and
possible PPM +/- flutter ablation. No temp wire required as
patient was HDS. 

Patient was given:  
No medications 

Vitals on transfer: 
T 97.9 HR 116 BP 149/82 RR 16 Sat 95% RA 
 
on the floor patient confirms the history above. 

REVIEW OF SYSTEMS:  
Positive per HPI.  
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertenstion
- HLD 
2. CARDIAC HISTORY   
- Afib/flutter on Apixiban 
3. OTHER PAST MEDICAL HISTORY  
Hypothyroidism 
Melanoma s/p resection
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=======================  
T 97.5 BP 168/95 HR 81 RR 20 Sat 99%RA
GENERAL: WDWN woman, Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
MMM 
NECK: JVP below clavicle  
CARDIAC: Irregularly irregular, Normal S1, S2. No murmurs, rubs,
or gallops.
LUNGS: Respiration is unlabored with no accessory muscle use.
Bilateral course crackles at the bases   
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.   
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 1251)
    Temp: 97.9 (Tm 98.3), BP: 153/69 (98-154/55-86), HR: 91
(65-120), RR: 18, O2 sat: 95% (91-97), O2 delivery: Ra, Wt: 
142.3
lb/64.55 kg    
 Weight on admission: 64.82 kg / 142.9 lb 
 Telemetry:  afib
 General:  Pleasant older woman laying in bed, NAD.
 HEENT:  JVP 6
 Lungs:  CTAB, no wrr
 CV:  RRR normal S1S2
 Abdomen:  NABS, ND, soft NTTP, no grm
 Ext:  palpable pulses radial and DP bilaterally.
 
Pertinent Results:
ADMISISON LABS
==============
___ 03:42PM BLOOD WBC-9.5 RBC-4.30 Hgb-12.5 Hct-39.6 MCV-92 
MCH-29.1 MCHC-31.6* RDW-14.9 RDWSD-50.4* Plt ___
___ 03:42PM BLOOD Neuts-66.1 ___ Monos-8.3 Eos-1.0 
Baso-0.3 Im ___ AbsNeut-6.25* AbsLymp-2.27 AbsMono-0.78 
AbsEos-0.09 AbsBaso-0.03
___ 06:53AM BLOOD ___ PTT-34.2 ___
___ 03:42PM BLOOD Glucose-97 UreaN-21* Creat-0.7 Na-142 
K-4.7 Cl-105 HCO3-25 AnGap-12
___ 03:42PM BLOOD Calcium-10.2 Phos-2.7 Mg-2.1

PERTINENT STUDIES
==================
___ CHEST XRAY
FINDINGS: 
 
An electronic device projects over the left mid chest. Heart 
appears mildly
enlarged.  The aorta is mildly tortuous. Mediastinal and hilar 
contours are
otherwise unremarkable within the limitations of technique. 
Small pleural
effusion appears likely on the left, none on the right. No 
pneumothorax.
Device partly obscures the left mid lung, but visualized lung 
fields appear
clear.
 
IMPRESSION: 
 
No evidence of acute cardiopulmonary process.

TRANSTHORACIC ECHO ___
CONCLUSION:
The left atrium is elongated. The right atrium is mildly 
enlarged. The estimated right atrial pressure is ___
mmHg. There is normal left ventricular wall thickness with a 
normal cavity size. There is normal regional and
global left ventricular systolic function. The visually 
estimated left ventricular ejection fraction is 60%.
There is no resting left ventricular outflow tract gradient. 
There is Grade II diastolic dysfunction. Normal right
ventricular cavity size with mild global free wall hypokinesis. 
Tricuspid annular plane systolic excursion
(TAPSE) is depressed. The aortic sinus diameter is normal for 
gender with normal ascending aorta diameter
for gender. The aortic arch diameter is normal with a normal 
descending aorta diameter. The aortic valve
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is no aortic regurgitation. The mitral
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
appear structurally normal. There is mild [1+]
tricuspid regurgitation. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial
effusion.
IMPRESSION: left ventricular diastolic dysfunction; right 
ventricular systolic dysfunction; moderate
pulmonary hypertension

___ CHEST XRAY
FINDINGS: 
 
Interval placement of a left chest generator device with two 
transvenous lead
tips projecting over the right atrium and right ventricle, 
respectively. 
Heart size is still slightly enlarged but improved, with 
interval resolution
of prior mild pulmonary edema.  Small bilateral pleural 
effusions, left
slightly greater than right.  No focal consolidation.
 
IMPRESSION:
 
 
1. Interval placement of left chest generator device with 
appropriate
positioning of two transvenous leads with tips projecting over 
the right
atrium and right ventricle.
2. Small bilateral pleural effusions, left slightly greater than 
right, with
interval improvement of previous pulmonary edema.

DISCHARGE LABS
================

___ 07:28AM BLOOD WBC-5.3 RBC-3.98 Hgb-11.5 Hct-37.1 MCV-93 
MCH-28.9 MCHC-31.0* RDW-15.1 RDWSD-51.9* Plt ___
___ 07:28AM BLOOD Glucose-90 UreaN-17 Creat-0.8 Na-141 
K-4.1 Cl-103 HCO3-24 AnGap-14
___ 07:28AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
___ year old woman w/PMH HTN, HLD, Afib on Apixiban and 
hypothyroidism, who presented to the ED with a finding of 7 
second pause on outpatient Zio patch associated with 
pre-syncopal symptoms concerning for tachy-brady syndrome. She 
had uneventful pacemaker placement on ___. Her home dose 
of beta-blocker was increased due to elevated heart rates while 
in atrial fibrillation. Her apixaban was increased to 5 
millgrams twice daily she did not meet criteria for reduced dose 
Apixaban.

TRANSITIONAL ISSUES:
====================
[] Apixaban increased to 5 mg bid as she did not meet criteria 
for reduced dose apixaban

[] Metoprolol increased to 150 mg; will need continued titration 
as an outpatient to avoid elevated rates

ACTIVE ISSUES:
==============
#Tachycardia-Bradycardia syndrome
#Atrial fib/flutter
History of afib/flutter with new finding of up to 7 second 
pauses and junctional escape rhythm on zio patch associated with 
lightheadedness concerning for sinus node dysfunction. Pauses 
also noted when pt is converting from afib/flutter to sinus 
rhythm. She was hemodynamically stable. TTE ___ showed EF50%, 
mild MR, otherwise unremarkable. Given symptomatic bradycardia 
and concern for sick sinus syndrome, received PPM placement on 
___ without complications. Her metoprolol succinate dose was 
increased 100 mg daily. She did not meet criteria for reduced 
dose apixaban, her dose was increased to 5 mg twice daily. 
Interrogation on ___ showed normal device function.

#Dyspnea
Progressive dyspnea on exertion over the past year that does not 
clearly correlate with episodes of lightheadedness. Bilateral 
crackles on exam at the bases with CXR with mild increase in 
interstitial markings at the bases. Does not appear volume 
overloaded on exam and TTE reassuring against HF. Pt not 
reporting any SOB on discharge. Can continue to be followed as 
an outpatient.

CHRONIC ISSUES:
===============
#Hypothyroidism: continued levothyroxine
#Hyperlipidemia: continued atorvastatin

CONTACT:
Name of health care proxy: ___
Relationship: Daughter
Phone number: ___
CODE STATUS: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO QAM 
2. Metoprolol Succinate XL 37.5 mg PO QPM 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Calcium Carbonate 500 mg PO BID 
6. Vitamin D 400 UNIT PO DAILY 
7. Apixaban 2.5 mg PO BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate 50 mg 3 tablet(s) by mouth once a day 
Disp #*90 Tablet Refills:*0 
3.  Atorvastatin 10 mg PO QPM  
4.  Calcium Carbonate 500 mg PO BID  
5.  Levothyroxine Sodium 88 mcg PO DAILY  
6.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Atrial fibrillation
Tachycardia-bradycardia syndrome

SECONDARY DIAGNOSES:
Hypertension
Hyperlipidemia
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were noted to 
have a long pause in your heart rhythm on cardiac rhythm 
monitoring accompanied by symptoms of lightheadedness.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, you were monitored for abnormal rhythms.  You 
had a pacemaker placed to avoid long pauses in your heartbeat as 
well as inappropriately low heart rates.  Your heart medications 
were adjusted.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
attend all of your follow-up appointments listed below.  You 
will follow-up with Dr. ___ as well as the Atrius device 
clinic.

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___